US04652561
A mixture of 2.5 g of (±)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-5-[2-(diethylamino)ethyl]naphtho[1,2-b]-1,4-thiazepin-4(5H)-one hydrochloride and 25 mL of acetic anhydride was stirred and heated at 100° for 17 hours. The excess of reagent was removed under reduced pressure and the residue was crystallized from ethyl acetate to give 2.5 g (93%) of (±)-cis-3-(acetyloxy)-5-[2-(diethylamino)ethyl]-2,3-dihydro-2-(4-methoxyphenyl)naphtho[1,2-b]-1,4-thiazepin-4(5H)-one hydrochloride, mp 211°-212°.

reactant | (±)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-5-[2-(diethylamino)ethyl]naphtho[1,2-b]-1,4-thiazepin-4(5H)-one hydrochloride | 2.5 g | Cl.O[C@H]1C(N(C2=C(S[C@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1C=C2)CCN(CC)CC)=O
reactant | acetic anhydride | 25 mL | C(C)(=O)OC(C)=O | C4H6O3
product | (±)-cis-3-(acetyloxy)-5-[2-(diethylamino)ethyl]-2,3-dihydro-2-(4-methoxyphenyl)naphtho[1,2-b]-1,4-thiazepin-4(5H)-one hydrochloride | 2.5 g, 93% | Cl.C(C)(=O)O[C@H]1C(N(C2=C(S[C@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1C=C2)CCN(CC)CC)=O | InChI=1S/C28H32N2O4S.ClH/c1-5-29(6-2)17-18-30-24-16-13-20-9-7-8-10-23(20)27(24)35-26(25(28(30)32)34-19(3)31)21-11-14-22(33-4)15-12-21;/h7-16,25-26H,5-6,17-18H2,1-4H3;1H/t25-,26+;/m1./s1
